US07576074B2
1,1-dimethylethyl 4-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate (173.6 mg, 0.57 mmol), 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol (154 mg, 0.46 mmol) and potassium carbonate (315 mg, 2.85 mmol) were taken into DMF (2 mL) and the mixture was heated to 50° C. for one hour. The mixture was then cooled to room temperature and partitioned with ethyl acetate and water. The organic layer was washed once more with water and the organic layer was partitioned again with water. A precipitate forms in the organic layer at this point and hexanes was added to the biphasic mixture in portions until formation of the precipitate is complete. The solid product was then collected by filtration. The solid residue was suspended in hot methanol and diluted with water followed by collection of the solid by filtration. The solid was washed with ethyl ether and dried in vacuo to give 1,1-dimethylethyl 4-[5-({[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}methyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate (170.7 mg, 62% yield) as a tan solid. 1H-NMR (400 MHz, DMSO-d6): 9.65 (s, 1H), 8.54 (s, 1H), 8.23 (d, 1H), 7.88-7.86 (m, 2H), 7.63 (d, 1H), 7.32 (s, 1H), 5.58 (s, 2H), 3.98 (s, 3H), 3.43-3.40 (m, 4H), 3.34-3.32 (m, 4H), 1.41 (s, 9H); MS (EI) for C27H29Cl2N7O5: 602 (MH+).

reactant | 1,1-dimethylethyl 4-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate | 0.57 mmol, 173.6 mg | ClCC1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H19ClN4O3
reactant | 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol | 0.46 mmol, 154 mg | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O | C15H11Cl2N3O2
reactant | potassium carbonate | 2.85 mmol, 315 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 4-[5-({[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}methyl)-1,2,4-oxadiazol-3-yl]piperazine-1-carboxylate | 170.7 mg, 62% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H29Cl2N7O5
